US08604065B2
1g. p-chloro-o-trifluoromethoxyphenol
1.78 g of o-trifluoromethoxyphenol was dissolved in 5 mL of toluene, and the mixture was stirred in an ice water bath for 20 min. 1.485 g of sulfonyl chloride was added dropwise to the reaction system within 10 min, which was then stirred for 20 min. The solution was moved to a water bath maintained at 30° C., and allowed to stir at this temperature for 1 h. 200 mL of 5% sodium carbonate aqueous solution and 50 mL of toluene were added to the system, which was then violently vibrated and isolated (pH of water layer was 10 upon determination). The pH of water layer was adjusted to 2 with 2 N of hydrochloric acid aqueous solution. The solution was extracted with 50 mL of toluene once again. The toluene layers were combined, successively washed with 100 mL of water and 100 mL of saturated sodium chloride aqueous solution, dried over 5 g of anh. MgSO4 for 30 min, and concentrated via a rotary evaporator to obtain a white granular solid. MS anion peak (M-H: 213).

reactant | o-trifluoromethoxyphenol | 1.78 g | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
reactant | sulfonyl chloride | 1.485 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium carbonate | 200 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | p-chloro-o-trifluoromethoxyphenol | ClC1=CC(=C(C=C1)O)OC(F)(F)F | C7H4ClF3O2
